US08349880B2
Step C (1): A mixture of 3-methyl-1H-1,2,4-triazole (15.0 g, 181 mmol), 1,2-difluoro-4-nitrobenzene (28.7 g, 181 mmol), and sodium bicarbonate (15.2 g, 181 mmol) in DMSO (100 mL) was heated at 80° C. for 48 h. The reaction mixture was allowed to cool to rt and was poured into water (800 mL). The aqueous mixture was extracted with EtOAc (3×200 mL). The combined organic extracts were sequentially washed with water (500 mL) and brine solution (100 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude reaction mixture was purified using silica gel chromatography (30-80% EtOAc/hexane, linear gradient) to afford two regioisomeric products. Pure fractions of the less polar regioisomer were combined and concentrated to afford 1-(2-fluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole (7.2 g, 30.8 mmol, 17% yield) as an off-white solid. Pure fractions of the more polar regioisomer were combined and concentrated to afford 1-(2-fluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole (6.23 g, 28.0 mmol, 15% yield) as an off-white solid.

reactant | 3-methyl-1H-1,2,4-triazole | 181 mmol, 15.0 g | CC1=NNC=N1 | C3H5N3
reactant | 1,2-difluoro-4-nitrobenzene | 181 mmol, 28.7 g | FC1=C(C=C(C=C1)[N+](=O)[O-])F | C6H3F2NO2
reactant | sodium bicarbonate | 181 mmol, 15.2 g | C([O-])(O)=O.[Na+]
reactant | water | 800 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 1-(2-fluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole | 30.8 mmol, 7.2 g, 17% yield | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=C(N=C1)C | C9H7FN4O2
